US09120812B2
70 mg (0.13 mmol) of 3-[4-[4-(3-ethylureido)phenyl]-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-7,8-dihydro-5H-9-oxa-1,3,6-triazabenzocyclohepten-6-yl]propionic acid are placed in 3 ml of DCM. 0.66 ml of DIEA (0.39 mmol), 12 mg of dimethylamine hydrochloride (0.14 mmol), 21 mg of hydroxybenzotriazole (0.14 mmol) and 27 mg of 1-ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride (0.14 mmol) are successively added, with stirring. After stirring for 3 days at room temperature, the DCM is evaporated off. The residue is taken up in water and extracted with ethyl acetate. The organic phase is washed with saturated aqueous NaHCO3 solution and then with brine, dried over MgSO4, filtered and evaporated. The solid obtained is taken up in acetonitrile, filtered off and rinsed with pentane to give 34 mg of 3-[4-[4-(3-ethylureido)phenyl]-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-7,8-dihydro-5H-9-oxa-1,3,6-triazabenzocyclohepten-6-yl]-N,N-dimethylpropionamide.

reactant | 3-[4-[4-(3-ethylureido)phenyl]-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-7,8-dihydro-5H-9-oxa-1,3,6-triazabenzocyclohepten-6-yl]propionic acid | 0.13 mmol, 70 mg | C(C)NC(NC1=CC=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CCC(=O)O)(C)C)N2CC1CCC(C2)O1)=O | C27H34N6O6
reactant | DIEA | 0.39 mmol, 0.66 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylamine hydrochloride | 0.14 mmol, 12 mg | Cl.CNC
reactant | hydroxybenzotriazole | 0.14 mmol, 21 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride | 0.14 mmol, 27 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[4-[4-(3-ethylureido)phenyl]-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-7,8-dihydro-5H-9-oxa-1,3,6-triazabenzocyclohepten-6-yl]-N,N-dimethylpropionamide | 34 mg | C(C)NC(NC1=CC=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CCC(=O)N(C)C)(C)C)N2CC1CCC(C2)O1)=O | C29H39N7O5
